US05444042
Z-Leu-Phe-CO2Bu.
This compound was prepared from Z-Leu-Phe-OH and butyl oxalyl chloride in 43% yield by the procedure described for the synthesis of Z-Leu-Phe-CO2Et, except that butyl oxalyl chloride was used in place of ethyl oxalyl chloride and sodium butyloxide in butanol was used for enol ester hydrolysis. Single spot on TLC, Rf =0.54 (CHCl3 :CH3OH=50:1) MS(FAB) m/e=497 (m+1), 1H NMR (CDCl3) ok.

reactant | Z-Leu-Phe-OH | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H28N2O5
reactant | Z-Leu-Phe-CO2Et | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C26H32N2O6
reactant | sodium butyloxide | C(CCC)OCCCC.[Na]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | butanol | C(CCC)O | C4H10O
solvent | CH3OH | CO | CH4O
product | Z-Leu-Phe-CO2Bu | 43% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(=O)OCCCC)C(=O)OCC1=CC=CC=C1 | C28H36N2O6
